US08076486B2
(3-{5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,3,4]oxadiazol-2-yl}-ureido)-acetic acid ethylester
A suspension of [4-(5-Amino-[1,3,4]oxadiazol-2-yl)-pyridin-3-yl]-(2-fluoro-4-iodo-phenyl)-amine (0.200 g, 0.504 mmol) in dry THF (3 mL) was treated with ethyl isocyanatoacetate (0.077 g, 0.596 mmol). The reaction mixture was stirred at RT overnight. More isocyanatoacetate (0.083 g, 0.643 mmol) was added, and the mixture was stirred for another 72 hrs. The material was diluted with diethyl ether (2 mL), filtered and dried under high vacuum for 2 h to afford a yellow solid product (0.144 g, 0.274 mmol, 54%) LC/MS (Method A) [5.53 min; 527(M+1)]

reactant | [4-(5-Amino-[1,3,4]oxadiazol-2-yl)-pyridin-3-yl]-(2-fluoro-4-iodo-phenyl)-amine | 0.504 mmol, 0.200 g | NC1=NN=C(O1)C1=C(C=NC=C1)NC1=C(C=C(C=C1)I)F | C13H9FIN5O
reactant | ethyl isocyanatoacetate | 0.596 mmol, 0.077 g | N(=C=O)CC(=O)OCC | C5H7NO3
reactant | isocyanatoacetate | 0.643 mmol, 0.083 g | N(=C=O)CC(=O)[O-]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
product | (3-{5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,3,4]oxadiazol-2-yl}-ureido)-acetic acid ethylester | 0.274 mmol, 0.144 g, 54% | C(C)OC(CNC(=O)NC=1OC(=NN1)C1=C(C=NC=C1)NC1=C(C=C(C=C1)I)F)=O | C18H16FIN6O4
